US03931235
To a stirred solution of 10.5 g. (0.0664 mole) of 4-hydroxy-6-methyl-3-mercapto-2-pyrone in 50 ml. of pyridine was added 9.60 g. (0.0664 mole) of p-fluorobenzyl chloride in one portion. The reaction was slightly exothermic, the temperature rising from 25° to 34°C. The reaction mixture was then allowed to stand at room temperature for four hours and at the end of this period was poured into a mixture of ice and 100 ml. of concentrated hydrochloric acid. The gummy precipitate was extracted with methylene chloride and the extract dried over anhydrous magnesium sulfate. The solvent was removed by evaporation in vacuo, leaving a light yellow oil, which crystallized upon cooling, weight 12.5 g. (71 percent). This was recrystallized from a solvent system of methylcyclohexane, benzene and ethanol to give light yellow crystals, m.p. 114.5°-118.5°C.; weight 7.20 g. Recrystallization from benzene gave the pure 3-(p-fluorobenzylthio)-4-hydroxy-6-methyl-2-pyrone as a pale yellow, crystalline solid, m.p. 118°-122°C.

reactant | 4-hydroxy-6-methyl-3-mercapto-2-pyrone | 0.0664 mole | OC1=C(C(OC(=C1)C)=O)S | C6H6O3S
reactant | p-fluorobenzyl chloride | 0.0664 mole | FC1=CC=C(CCl)C=C1 | C7H6ClF
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-(p-fluorobenzylthio)-4-hydroxy-6-methyl-2-pyrone | FC1=CC=C(CSC=2C(OC(=CC2O)C)=O)C=C1 | C13H11FO3S
